US08541457B2
Synthesis of 4-Methyl-2-propionylaminothiazole-5-carboxylic Acid Benzylamide
Following the procedure as described in Example 2, making variations only as required to use propionyl chloride in place of benzoyl chloride to react with 2-amino-4-methylthiazole-5-carboxylic acid benzylamide, the title compound was obtained as a white solid in 31% yield; m. p. 175-176° C.; 1H NMR (DMSO-d6, 300 MHz) δ 12.15, (s, 1H), 8.51 (t, J=6.0 Hz, 1H), 7.32-7.16 (m, 5H), 4.34 (d, J=6.0 Hz, 2H), 2.65-2.22 (m, 5H), 1.07 (t, J=7.5 Hz, 3H); MS (ES+) m/z 304.3 (M+1).

reactant | propionyl chloride | C(CC)(=O)Cl | C3H5ClO
reactant | 2-amino-4-methylthiazole-5-carboxylic acid benzylamide | C(C1=CC=CC=C1)NC(=O)C1=C(N=C(S1)N)C | C12H13N3OS
product | 4-Methyl-2-propionylaminothiazole-5-carboxylic Acid Benzylamide | 31% yield | C(C1=CC=CC=C1)NC(=O)C1=C(N=C(S1)NC(CC)=O)C | C15H17N3O2S
